US09108939B2
B: 1-(4-(1-(4-(1,1,1,3,3,3-Hexafluoro-2-hydroxypropan-2-yl)benzyl)piperidine-4-carbonyl)phenyl)-3-(oxetan-3-yl)urea
(4-Aminophenyl)(1-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperidin-4-yl)methanone (0.367 mmol, 169 mg) and 4-nitrophenyl chloroformate (0.367 mmol, 74.0 mg) were combined in tetrahydrofuran (2 mL) and stirred at room temperature for 1 hour. Oxetan-3-amine (0.734 mmol, 53.7 mg) and triethylamine (1.101 mmol, 111 mg) were added and the mixture stirred at room temperature overnight. The mixture was concentrated under reduced pressure and the resulting residue purified by basic HPLC to afford the title compound (43 mg). MS (ESI) m/z 560.2 [M+H]+.

reactant | (4-Aminophenyl)(1-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperidin-4-yl)methanone | 0.367 mmol, 169 mg | NC1=CC=C(C=C1)C(=O)C1CCN(CC1)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C22H22F6N2O2
reactant | 4-nitrophenyl chloroformate | 0.367 mmol, 74.0 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | Oxetan-3-amine | 0.734 mmol, 53.7 mg | O1CC(C1)N | C3H7NO
reactant | triethylamine | 1.101 mmol, 111 mg | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 1-(4-(1-(4-(1,1,1,3,3,3-Hexafluoro-2-hydroxypropan-2-yl)benzyl)piperidine-4-carbonyl)phenyl)-3-(oxetan-3-yl)urea | 43 mg | FC(C(C(F)(F)F)(O)C1=CC=C(CN2CCC(CC2)C(=O)C2=CC=C(C=C2)NC(=O)NC2COC2)C=C1)(F)F | C26H27F6N3O4
